US05663053
1-(7-Ethoxycarbonylheptyl)-2-[4-octyloxyphenyl]-4, 5-diphenylimidazole (3.2 g) was reacted with 2N sodium hydroxide in a method similar to Example 9. Column chromatography on silica gel eluted with a dichioro-methane:methanol gradient and recrystallisation from acetonitrile gave 1-(7-carboxyheptyl)-2-[4-octyloxy-phenyl]-4,5-diphenylimidazole (1.7 g, 58.6%) as a white solid, m.p. 114°-115°. Found: C, 78.61; H, 8.23; N, 4.96%; C37H46N2O3 requires: C, 78.41; H, 8.18; N, 4.94%.

reactant | 1-(7-Ethoxycarbonylheptyl)-2-[4-octyloxyphenyl]-4, 5-diphenylimidazole | 3.2 g | C(C)OC(=O)CCCCCCCN1C(=NC(=C1C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=C(C=C1)OCCCCCCCC | C39H50N2O3
reactant | sodium hydroxide | 2N | [OH-].[Na+]
product | 1-(7-carboxyheptyl)-2-[4-octyloxy-phenyl]-4,5-diphenylimidazole | 1.7 g, 58.6% | C(=O)(O)CCCCCCCN1C(=NC(=C1C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=C(C=C1)OCCCCCCCC | C37H46N2O3
